US08114868B2
(S)-3-((S)-1-(4-(1,6-dimethyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-(2-hydroxy -2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one
The title compound was prepared from (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propyl)-1,3-oxazinan -2-one and 4-bromo-1,6-dimethylpyridin-2(1H)-one following a procedure analogous to that described in Example 6 Step 1. LC-MS Method 2 tR=1.173 min, m/z=475.2; 1H NMR (CDCl3) 1.10 (s, 3H), 1.16 (s, 3H), 1.51 (d, 3H), 2.18 (m, 3H), 2.21 (m, 1H), 2.42 (m, 4H), 2.86 (m, 1H), 3.54 (s, 3H), 5.66 (m, 1H), 6.21 (s, 1H), 6.60 (s, 1H), 6.97 (m, 2H), 7.23-7.34 (m, 7H).

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propyl)-1,3-oxazinan -2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](CC)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C29H40BNO5
reactant | 4-bromo-1,6-dimethylpyridin-2(1H)-one | BrC1=CC(N(C(=C1)C)C)=O | C7H8BrNO
product | (S)-3-((S)-1-(4-(1,6-dimethyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-(2-hydroxy -2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one | CN1C(C=C(C=C1C)C1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)=O | C29H34N2O4
